US04472433
Preparation of sodium 2-[2-amino-5-(4-chlorophenoxy)phenyl]acetate
A mixture of 2-oxo-5-(4-chlorophenoxy)indoline (4.2 g.), sodium hydroxide (2.6 g.), dioxane (20 ml.) and water (40 ml.) was refluxed under heating for 5 days with stirring. After cooling, the reaction mixture was filtered and the filtrate was evaporated under reduced pressure. The residue was dissolved in water (50 ml.) and filtered. The filtrate was washed with diethyl ether and evaporated. The residue was dissolved in ethyl acetate (200 ml.) under warming and filtered. The filtrate was cooled, and the precipitating crystals were collected by filtration, washed with ethyl acetate and then recrystallized from a mixture of ethanol and ethyl acetate to give the captioned compound (3.4 g.). mp 206° to 209° C.

reactant | 2-oxo-5-(4-chlorophenoxy)indoline | 4.2 g | O=C1NC2=CC=C(C=C2C1)OC1=CC=C(C=C1)Cl | C14H10ClNO2
reactant | sodium hydroxide | 2.6 g | [OH-].[Na+]
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 40 ml | O | H2O
product | sodium 2-[2-amino-5-(4-chlorophenoxy)phenyl]acetate | NC1=C(C=C(C=C1)OC1=CC=C(C=C1)Cl)CC(=O)[O-].[Na+] | InChI=1S/C14H12ClNO3.Na/c15-10-1-3-11(4-2-10)19-12-5-6-13(16)9(7-12)8-14(17)18;/h1-7H,8,16H2,(H,17,18);/q;+1/p-1
